US05677454
To a solution of 145 mg of 2-phenyl-4-pyrimidinecarboxylic acid chloride in 5 mL tetrahydrofuran was added excess lithium borohydride. The reaction mixture was stirred at room temperature for 10 minutes then diluted with 25 mL of ethyl acetate and filtered. The filtrate was washed successively with 25 mL aliquots of 1N sodium hydroxide and brine. The solvent was removed by evaporation under reduced pressure to yield 100 mg of 2-phenyl-4-hydroxymethylpyrimidine as a white solid.

reactant | 2-phenyl-4-pyrimidinecarboxylic acid chloride | 145 mg | C1(=CC=CC=C1)C1=NC=CC(=N1)C(=O)Cl | C11H7ClN2O
reactant | lithium borohydride | [BH4-].[Li+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-phenyl-4-hydroxymethylpyrimidine | 100 mg | C1(=CC=CC=C1)C1=NC=CC(=N1)CO | C11H10N2O
